US06627651B1
Into a solution of 4-[N-methyl-N-(tetrahydropyran-4-yl)aminomethyl]aniline (551 mg) in THF (50 ml) were added triethylamine (0.42 ml) and acetic anhydride (0.26 ml), and the resulting mixture was stirred at room temperature for 3 hours. After evaporation of THF, the residue was extracted with ethyl acetate. The extract was washed successively with an aqueous solution of sodium bicarbonate and an aqueous solution of sodium chloride, was dried with anhydrous magnesium sulfate and was then concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/hexane to obtain N-[4-[N-methyl-N-(tetrahydropyran-4-yl)aminomethyl]phenyl]acetamide (472 mg) as light yellow crystals.

reactant | 4-[N-methyl-N-(tetrahydropyran-4-yl)aminomethyl]aniline | 551 mg | CN(C1CCOCC1)CC1=CC=C(N)C=C1 | C13H20N2O
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.26 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-[4-[N-methyl-N-(tetrahydropyran-4-yl)aminomethyl]phenyl]acetamide | 472 mg | CN(C1CCOCC1)CC1=CC=C(C=C1)NC(C)=O | C15H22N2O2
